US04281012
270 ml of a solution of cyclohexyl magnesium bromide titrating 1.3 M/liter in ether were added dropwise with stirring at room temperature to a mixture of 18.7 g of methyl 5-chloro-2-hydroxy-benzoate in 150 ml of ether and the ether was distilled while replacing it with 270 ml of benzene. The mixture was then refluxed for 20 hours and was cooled and poured into a mixture of 500 g of ice and 300 ml of an aqueous solution containing 105 g of ammonium chloride. The mixture was extracted once with 250 ml of ether, twice with 150 ml of ether and 3 times with 100 ml of methylene chloride. The organic phases were washed 3 times with 100 ml of water, were dried over magnesium sulfate in the presence of activated carbon and was evaporated to dryness. The residue was taken up in 50 ml of cyclohexane and the mixture was vacuum filtered. The product was dried to obtain 20,200 g of 5-chloro-α,α-dicyclohexyl-2-hydroxybenzene-methanol melting at 230° C.

reactant | cyclohexyl magnesium bromide | C1(CCCCC1)[Mg]Br
reactant | methyl 5-chloro-2-hydroxy-benzoate | 18.7 g | ClC=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO3
solvent | ether | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 5-chloro-α,α-dicyclohexyl-2-hydroxybenzene-methanol | 20,200 g | ClC=1C=CC(=C(C1)C(O)(C1CCCCC1)C1CCCCC1)O | C19H27ClO2
